US06730670B2
4-Methoxy-piperidine-1-carboxylic acid (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amide
The title compound MS: m/e 395.3 (M−H) was obtained as a light brown solid (54% yield) by the reaction of 4-methoxy-piperidine with (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-carbamic acid benzyl ester according to the method described above for example 1.

reactant | 4-methoxy-piperidine | COC1CCNCC1 | C6H13NO
reactant | (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC2=C(S1)C(=CC=C2OC)C2=CC=CC=C2)=O | C23H19NO3S
product | 4-Methoxy-piperidine-1-carboxylic acid (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amide | COC1=CC=C(C=2SC(=CC21)NC(=O)N2CCC(CC2)OC)C2=CC=CC=C2 | C22H24N2O3S
